US04242278
A mixture of 800 mg (0,02 mole) of 2-(2',2',2'-tribromoethyl)-3,3-dimethyl-4-chlorocyclobutan-1-one and 5,6 ml of 5% by weight of aqueous sodium hydroxide solution is stirred for 18 hours at 0° C. and subsequently for one additional hour at 80° C. Then the reaction mixture is cooled to room temperature washed with diethyl ether, acidified with concentrated hydrochloric acid and extracted with diethyl ether. The extract is washed with water and dried over magnesium sulphate. After evaporation of the diethyl ether there is obtained 0,59 g (100% of theoriy) of 2-(2',2'-dibromovinyl)-3,3-dimethylcyclopropane-1-carboxylic acid consisting to 80% of the cis-isomer and to 20% of the trans-isomer.

reactant | 2-(2',2',2'-tribromoethyl)-3,3-dimethyl-4-chlorocyclobutan-1-one | 0,02 mole, 800 mg | BrC(CC1C(C(C1(C)C)Cl)=O)(Br)Br | C8H10Br3ClO
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-(2',2'-dibromovinyl)-3,3-dimethylcyclopropane-1-carboxylic acid | 0,59 g, 100% | BrC(=CC1C(C1(C)C)C(=O)O)Br | C8H10Br2O2
